US09120749B2
Cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[1-(trans-4-(methylamino)cyclohexyl)-1H-pyrazol-4-ylamino]quinolin-3-yl}methanone
Following general procedure F, {6-bromo-4-[1-(trans-4-(methylamino)cyclohexyl)-1H-pyrazol-4-ylamino]quinolin-3-yl}(cyclopropyl)methanone (60 mg, 0.128 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (55 mg, 0.192 mmol) to afford the desired product (17 mg, 24%) as a light yellow solid: 1H NMR (500 MHz, DMSO-d6+TFA-d) δ 8.95-8.65 (br s, 1H), 8.63-8.51 (m, 1H), 8.40 (d, J=8.8 Hz, 1H), 8.06 (d, J=8.8 Hz, 1H), 8.02-7.97 (m, 1H), 7.54 (s, 1H), 4.26 (m, 1H), 3.11-3.02 (m, 1H), 2.60 (s, 3H), 2.20-2.08 (m, 4H), 1.88-1.76 (m, 2H), 1.58-1.46 (m, 2H), 1.00-0.76 (m, 4H); ESI MS m/z 550 [C29H29Cl2N5O2+H]+; HPLC 98.4% (AUC), tR=11.56 min.

reactant | {6-bromo-4-[1-(trans-4-(methylamino)cyclohexyl)-1H-pyrazol-4-ylamino]quinolin-3-yl}(cyclopropyl)methanone | 0.128 mmol, 60 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NN(C1)[C@@H]1CC[C@H](CC1)NC | C23H26BrN5O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.192 mmol, 55 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | Cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[1-(trans-4-(methylamino)cyclohexyl)-1H-pyrazol-4-ylamino]quinolin-3-yl}methanone | 17 mg, 24% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=NN(C1)[C@@H]1CC[C@H](CC1)NC)C1=CC(=C(C(=C1)Cl)O)Cl | C29H29Cl2N5O2
